US06936602B1
To a suspension of 7-bromo-2,3-dihydro-1-benzazepine-4-carboxylic acid (68.2 g) in methanol (100 ml) was added concentrated sulfuric acid (37.3 g) at 0° C., and the mixture was heated at 80° C. for 10 hours. After allowing to cool, the solvent was evaporated under reduced pressure. Ethyl acetate and water were added thereto and 1N sodium hydroxide solution was added to pH=4 at 0° C. The solution was separated, and the organic phase was washed with water and saturated brine and dried with magnesium sulfate. The solvent was evaporated under reduced pressure, the resulting residue was subjected to silica gel column to remove origin components (ethyl acetate), and the resulting solid was washed with diisopropyl ether to give methyl 7-bromo-2,3-dihydro-1-benzazepine-4-carboxylate (44.0 g). The filtrate was purified with silica gel column (hexane:ethyl acetate=4:1) to give methyl 7-bromo-2,3-dihydro-1-benzazepine-4-carboxylate (3.4 g).

reactant | 7-bromo-2,3-dihydro-1-benzazepine-4-carboxylic acid | 68.2 g | BrC=1C=CC2=C(C=C(CCN2)C(=O)O)C1 | C11H10BrNO2
reactant | sulfuric acid | 37.3 g | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 100 ml | CO | CH4O
product | methyl 7-bromo-2,3-dihydro-1-benzazepine-4-carboxylate | 44.0 g | BrC=1C=CC2=C(C=C(CCN2)C(=O)OC)C1 | C12H12BrNO2
